US06649626B1
2-(tert-Butyldimethylsilyloxy)furan (10, Z=O)
To a freshly distilled solution of 2(5H)-furanone (2.86 g, 34 mmol) in dichloromethane (20 ml), distilled triethylamine (6.6 ml. 47.4 mmol) is added under argon at 0° C. and then rapidly followed by tert-butyldimehylsilyltrifluoromethane sulfonate (8.6 ml, 37.3 mmol) The reaction mixture is allowed to return to room temperature and the stirring is maintained for two hours. The solvent is then removed under reduced pressure and the oily residue is purified by flash chromatography on silica gel (ethyl acetate-heptane, 1:9) in order to thus obtain compound 10 (Z=O) in the form of a slightly colored oil (5.3 g, 79%). The spectroscopic data for this compound (1H and 13C NMR) are identical to those described in the literature (G. Rassu, Z. Zanardi, L. Battistini, E. Gaetani, G. Casiraghi, J. Med. Chem ., 1997, 40, 168).

reactant | 2(5H)-furanone | 34 mmol, 2.86 g | O1C(C=CC1)=O | C4H4O2
reactant | triethylamine | 47.4 mmol, 6.6 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimehylsilyltrifluoromethane sulfonate | 37.3 mmol, 8.6 ml | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(tert-Butyldimethylsilyloxy)furan | [Si](C)(C)(C(C)(C)C)OC=1OC=CC1 | C10H18O2Si
